US07300935B2
Production of N-(4-(5-methylaminomethyl-1-(2,6-difluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxo-3-(4-methoxyphenyl)thieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyureahydrochloride
A mixed solution of N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(4-methoxyphenyl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea (2.0 g, 2.87 mmol) synthesized in Reference Example 19, 10%-palladium-carbon (200 mg), 1N hydrochloric acid (3 ml) in ethanol (40 ml) was stirred under hydrogen atmosphere at room temperature for 72 hours. The reaction mixture was subjected to filtration and the filtrate was concentrated to dryness to give the title compound (1.77 g, 96%) as white powders.

reactant | N-(4-(5-((benzyl(methyl)amino)methyl)-1-(2,6-difluorobenzyl)-3-(4-methoxyphenyl)-2,4-dioxo-1,2,3,4-tetrahydrothieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyurea | 2.87 mmol, 2.0 g | C(C1=CC=CC=C1)N(C)CC1=C(SC=2N(C(N(C(C21)=O)C2=CC=C(C=C2)OC)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | C37H33F2N5O5S
reactant | hydrochloric acid | 1N, 3 ml | Cl | ClH
solvent | ethanol | 40 ml | C(C)O | C2H6O
catalyst | palladium-carbon | 200 mg | [C].[Pd]
product | N-(4-(5-methylaminomethyl-1-(2,6-difluorobenzyl)-1,2,3,4-tetrahydro-2,4-dioxo-3-(4-methoxyphenyl)thieno[2,3-d]pyrimidin-6-yl)phenyl)-N′-methoxyureahydrochloride | 1.77 g, 96% | Cl.CNCC1=C(SC=2N(C(N(C(C21)=O)C2=CC=C(C=C2)OC)=O)CC2=C(C=CC=C2F)F)C2=CC=C(C=C2)NC(=O)NOC | InChI=1S/C30H27F2N5O5S.ClH/c1-33-15-21-25-27(38)37(19-11-13-20(41-2)14-12-19)30(40)36(16-22-23(31)5-4-6-24(22)32)28(25)43-26(21)17-7-9-18(10-8-17)34-29(39)35-42-3;/h4-14,33H,15-16H2,1-3H3,(H2,34,35,39);1H
